US07635715B2
Step A: Preparation of 2-(4-Chlorophenyl)butanenitrile
A mixture of NaH (4.0 g, 99 mmol) in 50 mL NMP stirred at 0° C., was treated dropwise with a mixture of bromoethane (11 g, 99 mmol) and 2-(4-chlorophenyl)acetonitrile (15 g, 99 mmol) in 20 mL ether. The mixture was stirred at room temperature for 2 hours, cooled to 0° C., and quenched carefully with H2O. The resulting mixture was neutralized with 10% HCl to a pH of 5. The mixture was extracted with ether (3×50 mL). The combined organic layers were washed with brine (30 mL), dried over anhydrous Na2SO4, concentrated in vacuo, and purified by column chromatography eluting with 5% EtOAc/hexane to give 9.1 g of the product as a pale yellow oil.

reactant | NaH | 99 mmol, 4.0 g | [H-].[Na+]
reactant | bromoethane | 99 mmol, 11 g | BrCC | C2H5Br
reactant | 2-(4-chlorophenyl)acetonitrile | 99 mmol, 15 g | ClC1=CC=C(C=C1)CC#N | C8H6ClN
solvent | NMP | 50 mL | CN1CCCC1=O | C5H9NO
solvent | ether | 20 mL | CCOCC | C4H10O
product | 2-(4-Chlorophenyl)butanenitrile | 9.1 g | ClC1=CC=C(C=C1)C(C#N)CC | C10H10ClN
